US07807672B2
Preparation of 1-benzyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester
To a stirred solution of methyl 2-(methoxymethyl)acrylate (176 mg, 1.35 mmol) and N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (416 μl, 1.63 mmol) in dichloromethane (2 ml) was added at 0° C. trifluoroacetic acid (21 μl, 0.27 mmol). The resulting solution was warmed to room temperature and stirred overnight. The crude product was purified by column chromatography on silica, eluted with a solution of ethyl acetate in hexanes (1:3), then 5% methanol in ethyl acetate to give the title compound (293 mg, 82%).

reactant | methyl 2-(methoxymethyl)acrylate | 1.35 mmol, 176 mg | COCC(C(=O)OC)=C | C6H10O3
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 1.63 mmol, 416 μl | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | trifluoroacetic acid | 0.27 mmol, 21 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-benzyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester | 293 mg, 82% | COC(=O)C1(CN(CC1)CC1=CC=CC=C1)COC | C15H21NO3
